US08222243B2
(4-Methoxy-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 4-methoxypiperdine by the method described in Example 2 Method B. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried to afford product as a colorless solid (151 mg, 81%). 1H NMR (CDCl3) 1.64-1.72 (m, 2 H), 1.86-1.93 (m, 2 H), 2.33 (d, J=1.3, 3 H), 3.36 (s, 3 H), 3.47-3.58 (m, 3 H), 3.87-3.95 (m, 2 H), 7.29 (d, J=3.5, 1 H), 7.42 (d, J=4.0, 1 H). 13C NMR 7.9, 30.9, 42 (br), 56.1, 75.2, 114.7, 118.7 (q, J=271), 128.0, 129.1, 131.1, 140.3, 155.2 (q, J=40), 158.0, 162.7. 19F NMR −63.2. LC/MS 6.31 min, [M+1]+ 375.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | 4-methoxypiperdine | COC1CCNCC1 | C6H13NO
product | (4-Methoxy-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone | 151 mg, 81% | COC1CCN(CC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | C16H17F3N2O3S
